US07081470B2
3-[(2-METHYL-1,3-BENZOTHIAZOL-5-YL)IMINO]-1-PHENYL-1,3-DIHYDRO-2H-INDOL-2-ONE
5-amino-2-methylbenzothiazole (52.2 mg, 0.31 mmol) was mixed with 1-phenylisatin (69.7 mg, 0.31 mmol) and heated at 140° C. for 3 h. The resulting crude product was purified by preparative TLC using ethyl acetate/hexane (6:4) as the eluent to give the desired product as a yellow solid (36.9 mg, 32.3%). 1H NMR Data: δ 7.9–6.7 (m, 12H), 2.9 (s, 3H). ESI-MS m/z found 370 (MH+).

reactant | 5-amino-2-methylbenzothiazole | 0.31 mmol, 52.2 mg | NC=1C=CC2=C(N=C(S2)C)C1 | C8H8N2S
reactant | 1-phenylisatin | 0.31 mmol, 69.7 mg | C1(=CC=CC=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C14H9NO2
product | 3-[(2-METHYL-1,3-BENZOTHIAZOL-5-YL)IMINO]-1-PHENYL-1,3-DIHYDRO-2H-INDOL-2-ONE | 36.9 mg, 32.3% | CC=1SC2=C(N1)C=C(C=C2)N=C2C(N(C1=CC=CC=C21)C2=CC=CC=C2)=O | C22H15N3OS
